US09376386B2
Step D. (3S,5R,6R)-3-Allyl-5-(3-chlorophenyl)-6-(4-chlorophenyl)-3-methyltetrahydro-2H-pyran-2-one
A solution of (3S,5R,6R)-5-(3-chlorophenyl)-6-(4-chlorophenyl)-3-methyltetrahydro-2H-pyran-2-one and (3R,5S,6S)-5-(3-chlorophenyl)-6-(4-chlorophenyl)-3-methyltetrahydro-2H-pyran-2-one (4.5 g, 13.4 mmol) and allyl bromide (3.48 mL, 40.3 mmol) in tetrahydrofuran (22 mL) at −35° C. (acetonitrile/dry ice bath) was treated with a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1.0 M, 17.45 mL, 17.45 mmol). The reaction was allowed to warm to −5° C. over 1 hour and then was quenched with 50% saturated ammonium chloride. The reaction was diluted with 100 mL of ethyl acetate and the layers were separated. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated under a vacuum to afford the title compound as a white solid upon standing under a vacuum. Chiral SFC (92% CO2, 8% methanol (20 mM ammonia), 5 mL/min, Phenomenex Lux-2 column (Phenomenex, Torrance, Calif.), 100 bar (10,000 kPa), 40° C., 5 minute method) was used to determine that the compound had an enantiomeric ratio of 96:4. (Major enantiomer: title compound, retention time=2.45 minutes, 96%; minor enantiomer (structure not shown, retention time=2.12 min, 4%). The title compound was recrystallized by adding to heptane (4.7 g slurried in 40 mL) at reflux and 1.5 mL of toluene was added dropwise to solubilize. The solution was cooled to 0° C. The white solid was filtered and rinsed with 20 mL of cold heptanes to afford a white powder. Chiral SFC (92% CO2, 8% methanol, Phenomenex Lux-2 column, same method as above) indicated an enantiomeric ratio of 99.2:0.8. (major enantiomer, 2.45 min, 99.2%; minor enantiomer: 2.12 min, 0.8%)

reactant | (3S,5R,6R)-5-(3-chlorophenyl)-6-(4-chlorophenyl)-3-methyltetrahydro-2H-pyran-2-one | ClC=1C=C(C=CC1)[C@H]1C[C@@H](C(O[C@H]1C1=CC=C(C=C1)Cl)=O)C | C18H16Cl2O2
reactant | (3R,5S,6S)-5-(3-chlorophenyl)-6-(4-chlorophenyl)-3-methyltetrahydro-2H-pyran-2-one | 13.4 mmol, 4.5 g | ClC=1C=C(C=CC1)[C@@H]1C[C@H](C(O[C@@H]1C1=CC=C(C=C1)Cl)=O)C | C18H16Cl2O2
reactant | allyl bromide | 40.3 mmol, 3.48 mL | C(C=C)Br | C3H5Br
reactant | acetonitrile dry ice | C(C)#N.C(=O)=O
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17.45 mmol, 1.0 M, 17.45 mL | O1CCCC1 | C4H8O
product | (3S,5R,6R)-3-Allyl-5-(3-chlorophenyl)-6-(4-chlorophenyl)-3-methyltetrahydro-2H-pyran-2-one | C(C=C)[C@@]1(C(O[C@H]([C@H](C1)C1=CC(=CC=C1)Cl)C1=CC=C(C=C1)Cl)=O)C | C21H20Cl2O2
